US06017919
Pentyl 3,4-dipentyloxybenzoate (911 mg, 2.50 mmol) was dissolved in methanol (15.0 ml). To this solution was added a 1N aqueous potassium hydroxide solution (7.5 ml, 7.5 mmol, 3 eq), and the mixture was stirred with reflux for 5 hours. A 3N aqueous hydrochloric acid solution was added to this reaction mixture to make the same acidic (pH <2). The mixture was extracted with chloroform (20 ml×3). The organic layer was washed with saturated brine (20 ml). The organic layer was d ried over anhydrous magnesium sulfate, and the drying agent was filtered off. The filtrate was concentrated under reduced pressure to give a colorless solid. This was recrystallized from ethyl acetate-hexane to give 3,4-dipentyloxybenzoic acid (512 mg, 70%) as colorless crystals.

reactant | Pentyl 3,4-dipentyloxybenzoate | 2.50 mmol, 911 mg | C(CCCC)OC=1C=C(C(=O)OCCCCC)C=CC1OCCCCC | C22H36O4
reactant | potassium hydroxide | 7.5 mmol, 1N, 7.5 ml, 3 eq | [OH-].[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 15.0 ml | CO | CH4O
product | 3,4-dipentyloxybenzoic acid | 512 mg, 70% | C(CCCC)OC=1C=C(C(=O)O)C=CC1OCCCCC | C17H26O4
